US08685969B2
To a solution of benzyl 3-(2-amino-1-(6-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate (0.1010 g, 0.169 mmol) in 1,4-dioxane (4.82 mL) was added 50% ethyl 2-oxoacetate/toluene (0.067 mL, 0.337 mmol) at 10° C. The cold bath was removed, and the reaction was stirred to room temperature for 3 h. The reaction was concentrated in vacuo to give crude ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-1-carboxylate which was used in the subsequent step. This was added to p-xylene (41.6 mL) and 10% Pd/C (0.310 g, 0.291 mmol). The reaction was heated to 125° C. for 4.5 hr and cooled to room temperature. The solution was filtered through a pad of CELITE® and rinsed with EtOAc (150 mL). The filtrate was washed with water (40 mL), dried over MgSO4, filtered and concentrated in vacuo to give a residue which was purified by flash chromatography using an ISCO 120 g column eluting with 0-30% EtOAc/CH2Cl2. Appropriate fractions (20% elution) were combined, concentrated in vacuo to give the desired product (0.1487 g, 0.219 mmol, 15.0% yield) as a tan solid.

reactant | benzyl 3-(2-amino-1-(6-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate | 0.169 mmol, 0.1010 g | NCC(C1=CNC2=CC(=CC=C12)N1CC(CC1)O[Si](C)(C)C(C)(C)C)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C35H46N4O3Si
reactant | ethyl 2-oxoacetate toluene | 0.337 mmol, 0.067 mL | O=CC(=O)OCC.C1(=CC=CC=C1)C
solvent | 1,4-dioxane | 4.82 mL | O1CCOCC1 | C4H8O2
product | ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(3-(tert-butyldimethylsilyloxy)pyrrolidin-1-yl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-1-carboxylate | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1CNC(C=2NC3=CC(=CC=C3C21)N2CC(CC2)O[Si](C)(C)C(C)(C)C)C(=O)OCC)C | C39H50N4O5Si
